US07115642B2
2-Chloro-6-(4-pyridyl)benzaldoxime (85 mg, 0.37 mmol), 2,2-dichloro-N-(3-ethynylphenyl) acetamide (78 mg, 0.34 mmol), chloramine-T hydrate (100 mg, 0.44 mmol) and ethanol (2 mL) were combined in a microwave vial and sealed with a crimp seal. The mixture was microwaved at 100° C. for 600 seconds. The resulting mixture was concentrated under reduced pressure and taken up in ethyl acetate. This organic solution was washed with ice-cold 1N sodium hydroxide and brine. The organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure. The resulting residue was purified by flash column chromatography on silica gel, eluting with 98:2 methylene chloride:methanol to provide compound number 684, 2,2-dichloro-N-[2-[3-(2-chloro-6-(4-pyridyl)phenyl)-5-isoxazoyl]phenyl]acetamide (20 mg, 13% yield) as a light yellow solid. NMR (300 MHz, CDCl3): 8.5 (m, 2H), 8.25 (broad s, 1H), 8.0 (m, 1H), 7.8 (m, 1H), 7.7–7.4 (m, 5H), 7.3 (m, 2H), 6.5 (s, 1H), 6.05 ppm (s, 1H).

reactant | 2-Chloro-6-(4-pyridyl)benzaldoxime | 0.37 mmol, 85 mg | ClC1=C(C=NO)C(=CC=C1)C1=CC=NC=C1 | C12H9ClN2O
reactant | 2,2-dichloro-N-(3-ethynylphenyl) acetamide | 0.34 mmol, 78 mg | ClC(C(=O)NC1=CC(=CC=C1)C#C)Cl | C10H7Cl2NO
reactant | chloramine-T hydrate | 0.44 mmol, 100 mg | CC1=CC=C(C=C1)S(=O)(=O)[N-]Cl.O.[Na+]
reactant | ethanol | 2 mL | C(C)O | C2H6O
solvent | methanol | CO | CH4O
product | 2,2-dichloro-N-[2-[3-(2-chloro-6-(4-pyridyl)phenyl)-5-isoxazoyl]phenyl]acetamide | 20 mg, 13% yield | ClC(C(=O)NC1=C(C=CC=C1)C(=O)C1=CC(=NO1)C1=C(C=CC=C1C1=CC=NC=C1)Cl)Cl | C23H14Cl3N3O3
